US04997841
N-Methyl-3-(1,2,3,6-tetrahydro-1-methyl-4-pyridinyl)-1H-indole-5-ethane sulphonamide oxalate
A solution of N-methyl-1H-indole-5-ethanesulphonamide (1.0 g) in methanol (50 ml) containing potassium hydroxide (5.6 g) and N-methyl-4-piperidone (1.0 ml) was heated at reflux for 24h, cooled, and the resulting solid filtered off (1.0 g). A sample of the solid (0.2 g) was dissolved in a hot methanolic solution of oxalic acid (0.06 g), the solution cooled, and the salt precipitated by adding ethyl acetate (20 ml) and dry ether (50 ml). The salt was filtered off, and dried in vacuo to give the title compound as a solid (0.12 g) m.p. 87°-90° (shrinks) Analysis Found: C,52.2; H,5.6; N,9.5. C17H23N3O2S.C2H2O4.0.6H2O requires C,52.5; H,6.0; N,9.7%.

reactant | N-methyl-1H-indole-5-ethanesulphonamide | 1.0 g | CNS(=O)(=O)CCC=1C=C2C=CNC2=CC1 | C11H14N2O2S
reactant | potassium hydroxide | 5.6 g | [OH-].[K+]
reactant | N-methyl-4-piperidone | 1.0 ml | CN1CCC(CC1)=O | C6H11NO
reactant | methanol | 50 ml | CO | CH4O
product | N-Methyl-3-(1,2,3,6-tetrahydro-1-methyl-4-pyridinyl)-1H-indole-5-ethane sulphonamide oxalate | 0.12 g | C(C(=O)O)(=O)O.CNS(=O)(=O)CCC=1C=C2C(=CNC2=CC1)C=1CCN(CC1)C | InChI=1S/C17H23N3O2S.C2H2O4/c1-18-23(21,22)10-7-13-3-4-17-15(11-13)16(12-19-17)14-5-8-20(2)9-6-14;3-1(4)2(5)6/h3-5,11-12,18-19H,6-10H2,1-2H3;(H,3,4)(H,5,6)
